US06248765B1
3,4-Dihydro-6-(3-(1H-imidazol-4-yl)propyloxy)-2H-naphthalen-1-one
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol and 6 mmol of 3,4-dihydro-6-hydroxy-2H-naphthalen-1-one are treated as described in Example 56.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | 3,4-dihydro-6-hydroxy-2H-naphthalen-1-one | 6 mmol | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
product | 3,4-Dihydro-6-(3-(1H-imidazol-4-yl)propyloxy)-2H-naphthalen-1-one | N1C=NC(=C1)CCCOC=1C=C2CCCC(C2=CC1)=O | C16H18N2O2
